US05710173
Reaction of 3-phenoxythiophen-2-carboxaldehyde and thien-2-ylsulfonylacetonitrile as in Example 1 gave (E)-3-(3-phenoxythien-2-yl)-2-(thien-2-ylsulfonyl)acrylonitrile

reactant | 3-phenoxythiophen-2-carboxaldehyde | O(C1=CC=CC=C1)C1=C(SC=C1)C=O | C11H8O2S
reactant | thien-2-ylsulfonylacetonitrile | S1C(=CC=C1)S(=O)(=O)CC#N | C6H5NO2S2
product | (E)-3-(3-phenoxythien-2-yl)-2-(thien-2-ylsulfonyl)acrylonitrile | O(C1=CC=CC=C1)C1=C(SC=C1)/C=C(\C#N)/S(=O)(=O)C=1SC=CC1 | C17H11NO3S3
